US08080566B1
A 100-mL round-bottomed flask was charged with a solution of tert-butyl 3-(1H-1,2,3-triazol-1-yl)piperidine-1-carboxylate (2.8 g, 11.11 mmol, 1.00 equiv) in MeOH (50 mL). To this mixture was added conc. HCl (10 mL). The resulting solution was stirred at 30° C. for 5 hours in an oil bath. Upon completion, the resulting mixture was cooled down to room temperature and concentrated on a rotary evaporator affording 3-(1H-1,2,3-triazol-1-yl)piperidine hydrochloride as pale yellow solid (3 g).

reactant | tert-butyl 3-(1H-1,2,3-triazol-1-yl)piperidine-1-carboxylate | 11.11 mmol, 2.8 g, 1.00 equiv | N1(N=NC=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C12H20N4O2
reactant | HCl | 10 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | 3-(1H-1,2,3-triazol-1-yl)piperidine hydrochloride | 3 g | Cl.N1(N=NC=C1)C1CNCCC1 | InChI=1S/C7H12N4.ClH/c1-2-7(6-8-3-1)11-5-4-9-10-11;/h4-5,7-8H,1-3,6H2;1H
